datasets/RMG-dataset.csv
rxn,Ea
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])[H:9]>>[O:0][H:9].[O:1]1[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])[H:14],64.0152
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23],62.8269
[C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13].[S:0]=[C:1][S:2][H:4],134.817
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],87.6966
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30]([c:31]1[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]([H:44])[c:36]1[H:45])[H:40])([H:37])([H:38])[H:39]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:30]([C:29]([H:37])([H:38])[H:39])([c:31]1[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]([H:44])[c:36]1[H:45])[H:40])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],43.0534
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][C:10]([H:11])([H:12])[H:13],38.36728
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13]([S:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[S:14][C:13]([H:15])([H:16])[H:17])([H:4])([H:5])[H:6],-5.52288
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:12])[H:11],13.7654
[C:0]([C:1]([C:2]([O:3][H:10])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([C:2]([O:3])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[H:10],83.68
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([S:9][H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8]([S:9][H:12])([H:10])[H:11],11.2968
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:21][H:27],18.434704
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])([H:9])([H:10])[H:11],16.6942
[C:0](=[C:1]([O:2][O:3][H:7])[H:6])([H:4])[H:5].[O:8][O:9][H:10]>>[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[H:7][O:8][O:9][H:10],42.701904
[C:0]([C:1](=[C:2]([H:13])[H:14])[C:3](=[C:4]([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[C:7](=[O:8])[O:9][O:10][H:19])([H:11])[H:12]>>[C:0]1([H:11])([H:12])[C:1](=[C:2]([H:13])[H:14])[C:3](=[C:4]([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[C:7](=[O:8])[O:9]1.[O:10][H:19],78.3663
[O:0][O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:18])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:16],53.6389
